2129-05-25 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**5-24**]
   - Ativan 0.5 mg X2 before bed for anxiety/insomnia
   - Pt remained borderline tachy (98-103), borderline hypotensive (SBP
   70-80s) overnight (pt SBP 80-90s at baseline)
   - Pt given 250cc NS bolus X4 overnight for soft pressures, did not
   respond dramatically
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-25**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 90 (83 - 107) bpm
   BP: 75/46(53) {71/16(35) - 94/58(66)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,020 mL
                                                                    310 mL
   PO:
                                                                    520 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,250 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    150 mL
   Urine:
                                                                    400 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,620 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   PHYSICAL EXAMINATION:
   VS: T 97.5  BP 74/51  HR 89  RR 19  O2 99% on RA
   GENERAL: Elderly man, pleasant, anxious, in NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: PERRL, EOMI.  Conjunctiva were pink, no pallor or cyanosis of
   the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.  Submandibular LAD on left
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR
   with multiple PVCs.  Normal S1, S2. No m/r/g. No thrills, lifts.  No S3
   or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Dullness to
   percussion on right to mid-lung field and at left base.  Decreased BS
   on right to mid-lung.  No w/c/r
   ABDOMEN: Soft, NTND. No HSM or tenderness. Scar in RUQ from previous
   nephrectomy.  No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 1+ PT 1+
   Left: DP 1+ PT 1+
   Labs / Radiology
   292 K/uL
   10.0 g/dL
   105 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   37 mg/dL
   105 mEq/L
   139 mEq/L
   30.6 %
   7.0 K/uL
        [image002.jpg] FeNa0.1%
   Urine electrolytes:
   UreaN:637
   Creat:202
   Na:24
   TotProt:65
   Prot/Cr:0.3
                             [**2129-5-24**]  03:10 PM
                             [**2129-5-25**]  04:39 AM
   WBC
   6.3
   7.0
   Hct
   33.1
   30.6
   Plt
   321
   292
   Cr
   1.9
   2.2
   Glucose
   107
   105
   Other labs: PT / PTT / INR:13.9/27.8/1.2, Differential-Neuts:71.6 %,
   Lymph:20.9 %, Mono:4.8 %, Eos:2.3 %, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
   The patient is a 66 yo man with h/o amyloidosis who presents with
   hypotension in the setting of Lisinopril.
   .
   #. Hypotension:  The patient's BP on admission was 74/51, and he was
   experiencing dizziness, nausea, and HA.  This was in the setting of
   starting Lisinopril yesterday and taking two doses over the past 24
   hours.  His BP did not improve with NS, but the patient is no longer
   symptomatic from his hypotension.  Per the patient, his SBP normally
   runs in the 80s-90s.  Hypotension is most likely [**12-27**] Lisinopril in the
   setting of amyloidosis (exposes subclinical autonomic neuropathy).
    - Continue to hold Lisinopril and Lasix
    - Continue 500 cc NS fluid boluses as needed to maintain MAP > 60
    - Try to hold off on central line and Neosynepherine
   .
   #. Amyloidosis:  The patient was recently diagnosed with amyloidosis on
   findings from TTE and Cardiac MRI.  He was started on Lisinopril night
   prior to admission by his PCP, [**Name10 (NameIs) 43**] the patient will reportedly be
   referred to [**Hospital1 475**] for further treatment of this condition.
    - Continue to hold Lisinopril
    - Consider Heme/Onc C/S in the am for possible chemotherapy v. SCT vs.
   transfer of care to [**Hospital1 475**]
    - Consider myocardial Bx
   .
   #. Pleural Effusions:  The patient has large bilateral pleural
   effusions, and had been scheduled for elective thoracentesis today.
   Spoke with pulm this afternoon, and they will take the patient for
   [**Female First Name (un) 231**] tomorrow as long as his pressure improves.
    - Will page IP this am, now seems stable for [**Female First Name (un) 231**]
   .
   #. Acute Renal Failure:  The patient's Cr on presentation is 1.9, which
   is increased from his baseline of 1.2 in [**4-2**].  This is most likely
   pre-renal as a result of low cardiac output; however, it may also be
   secondary to renal amyloid deposits.
    - FeNa suggestive of pre-renal.
    - Continue to bolus with 500 cc NS as needed.
    - Continue to monitor Cr and UOP
   .
   #. FEN: Regular, Cardiac diet
   .
   #. ACCESS: PIV's
   .
   #. PROPHYLAXIS:
    - DVT ppx with Heparin SQ TID
    - Pain management with Tylenol prn
    - Bowel regimen with Colace and Senna
   .
   #. CODE: Full (confirmed)
   .
   #. DISPO: home today after [**Female First Name (un) 231**]
 HEART DISEASE, OTHER
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-5-24**] 02:40 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Pain: Tylenol prn
   Bowel: Colace and Senna
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   Pt admitted to CCU after developing hypotension with lisinopril in
   setting of restrictive cardiomyopathy of amyloid.
   Better this AM after fluids.
   Cr 2.2
   Large r pleural effusion.
   EKG with low voltage and echo with wall thickness of 2.0 cm with
   classic speckled pattern.
   Physical Examination
   +JVD with [**Hospital 7039**]
   Medical Decision Making
   Will proceed with thoracentesis today.
   Also will discuss plans for amyloid treatment with Heme-Onc and [**Hospital 475**]
   clinic.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2129-5-25**] 17:20 ------

2129-05-26 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**5-25**]:
   - s/p pleurocentesis by IP at 9am. 1500ccs drained, gram stain showed
   PMN
s but no bacteria.  RE: Pleurex Catheter, they would not place one
   at this time as they do not usually put in a permanent catheter in
   cases of heart failure but more as a last resort option.
   - pressures low (SBP 75-85) most of the day, though patient
   asymptomatic and ambulating w/o difficulty. Received 500cc bolus
   overnight.
   - s/p fat pad biopsy by dermatology, s/p aspirate by gen [**Doctor First Name **], Sent for
   rush pathology.
   - spoke several times with amyloid clinic at [**Hospital1 475**] ([**Telephone/Fax (1) 7061**]). He has
   to be screened before appt can be made, then clinic happens
   monday-wednesday.  Clinic coordinator has CCU & patient phone numbers
   and should be calling in the next 1-2 days.
   - Patient's Cr increased from baseline, did not urinate from 4am to
   4pm, then put out 400 cc. Monitoring UOP.
   - Seen by heme-onc, rec: UPEP, beta2-microglob, troponin, skeletal
   survery, abd u/s, Factor X level.  They are awaiting a decision of
   goals of care and whether to treat here or at [**Hospital1 475**].
   - Seen by social work for coping/new diagnosis
   - Plan for family meeting tomorrow to pool data, discuss prognosis and
   make plan.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 93 (86 - 114) bpm
   BP: 79/49(55) {68/39(49) - 98/74(78)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,990 mL
                                                                    500 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,690 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    300 mL
   Urine:
                                                                    750 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
   Balance:
                                                                    -60 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   GENERAL: Elderly man, pleasant, anxious, in NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: PERRL, EOMI.  Conjunctiva were pink, no pallor or cyanosis of
   the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 14 cm, mild hepato-jugular reflux.
   CARDIAC: Distant heart sounds, RR with multiple PVCs.  Normal S1, S2.
   No m/r/g. No thrills, lifts.  No S3 or S4.
   LUNGS: Dullness to percussion on right and left to [**11-27**] distance up
   lung.  Decreased BS on right and left to same level.  No w/c/r
   ABDOMEN: Soft, NTND. Wounds from biopsies clean and intact. Scar in RUQ
   from previous nephrectomy.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No rashes.
   PULSES:  Right: DP 1+ PT 1+  , Left: DP 1+ PT 1+
   Labs / Radiology
   334 K/uL
   10.9 g/dL
   107 mg/dL
   1.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   37 mg/dL
   103 mEq/L
   137 mEq/L
   32.3 %
   8.9 K/uL
        [image002.jpg]
                             [**2129-5-24**]  03:10 PM
                             [**2129-5-25**]  04:39 AM
                             [**2129-5-25**]  01:12 PM
                             [**2129-5-26**]  04:11 AM
   WBC
   6.3
   7.0
   8.9
   Hct
   33.1
   30.6
   32.3
   Plt
   [**Telephone/Fax (3) 7062**]
   Cr
   1.9
   2.2
   2.1
   1.9
   TropT
   0.39
   Glucose
   107
   105
   107
   Other labs: PT / PTT / INR:13.4/30.4/1.1, Troponin-T: 0.39,
   Differential-Neuts:71.6 %, Lymph:20.9 %, Mono:4.8 %, Eos:2.3 %,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Radiology:
   [**5-25**] CXR: Moderate right pleural effusion decreased since [**5-24**],
   small left pleural effusion increased slightly.  Atelectasis at bases.
   Upper lungs clear.
   [**5-25**] Bone scan wet read: no lytic or sclerotic lesions. No joint
   erosions. Calcification of the aortic arch.
   [**5-25**] Abd U/S: Overall minimal change since [**5-6**]^th with pleural
   effusion, hepatic hemangioma, splenic cysts and left renal cyst.
   Assessment and Plan
   The patient is a 66 yo man with h/o amyloidosis who presents with
   hypotension in the setting of Lisinopril.
   .
   #. Amyloidosis:  The patient was recently diagnosed with amyloidosis on
   findings from TTE and Cardiac MRI.  Yesterday a fat pad biopsy and fat
   pad aspirate were done in search of a definitive tissue diagnosis.  The
   patient has yet to define clear goals of care and is awaiting
   acceptance into the BU [**Hospital 7063**] clinic.
    - Family meeting today to discuss diagnosis, prognosis and plan.
   Should involve primary team, heme/onc, social work.  Need to establish
   plan of care before discharge.
   - contact [**Hospital1 475**]
    - f/u fat pad biopsy, aspirate and UPEP
    - f/u factor X, beta2-microglobulin per heme-onc
    - appreciate heme-onc recs.
   - skeletal survey and abd U/S wet-reads normal but f/u final reports
    - If fat pad biopsy inconclusive, may require bone marrow biopsy.
   .
   #. Hypotension:  The patient's BP on admission was 74/51, and he was
   experiencing dizziness, nausea, and HA.  Initial symptomatic
   hypotension most likely due to Lisinopril.  Per the patient, his SBP
   normally runs in the 80s-90s, yesterday was able to ambulate with SBP
   in the high 70s and 80s.
    - Continue to hold Lisinopril and Lasix
   - If patient remains asymptomatic, no intervention necessary.
   .
   #. Pleural Effusions:  Thoracentesis done yesterday with symptomatic
   improvement per patient.  All effusions have been transudates, meaning
   cause is restrictive cardiomyopathy and will most likely recur.
   However, permanent cath would be last resort per IP.
   - CXR yest showed improvement of right effusion post-tap; today CXR
   shows bilat effusions
    - Monitor dyspnea and morning CXR; consider re-tap if stays O/N
   tonight
   .
   #. Acute Renal Failure:  The patient's Cr on presentation is 1.9, which
   is increased from his baseline of 1.2 in [**4-2**], increased to 2.2 and now
   appears to be trending down.  Ddx is pre-renal due to hypotension,
   amyloid renal disease and post-renal due to BPH.  FE Urea of 16
   suggestive of pre-renal.
    - Continue to bolus with 500 cc NS as needed.
    - Continue to monitor Cr and UOP
   .
   #. FEN: Regular, Cardiac diet
   .
   #. ACCESS: PIV's
   .
   #. PROPHYLAXIS:
    - DVT ppx with Heparin SQ TID
    - Pain management with Tylenol prn
    - Bowel regimen with Colace and Senna
   .
   #. CODE: Full (confirmed)
   .
   #. DISPO: Home to go to [**Hospital1 475**] for outpt tx.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-5-24**] 02:40 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: None needed
   VAP: none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Home today to go to [**Hospital1 475**] for outpatient tx.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   BP back to baseline off lisinopril
   BM bx today for further eval of amyloid
   Medical Decision Making
   Discuss plans with Heme Onc re mgmt of amyloid, with possible followup
   at [**Hospital1 475**]
   [**Month (only) 11**] be ready for discharge today.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2129-5-26**] 12:29 ------

2129-05-27 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - information meeting w/ patient, heme-onc and CCU team to share
   information to date, plan at [**Hospital1 475**].
   - approved by [**Hospital1 475**] amyloid clinic, has appt for Monday @ 7:45am
   - Bone marrow biopsy done as fat pad felt to be low yield and prompt
   diagnosis needed. Results pending.
   - Pt developed crampy abdominal pain after several loose stools @ 2pm.
   Pain was suprapubic/RLQ/LLQ, [**8-4**]. Improved with 1gm of Morphine.
   Another episode of crampy abdominal pain in the PM. Total of 3 doses
   Morphine. KUB did not show dilated bowl loops or air fluid levels.
   - Decision to keep patient overnight as he was anxious and had
   abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2129-5-26**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2129-5-26**] 08:16 PM
   Lorazepam (Ativan) - [**2129-5-27**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 93 (85 - 98) bpm
   BP: 83/56(62) {74/21(34) - 94/68(73)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.1 kg (admission): 70 kg
   Height: 66 Inch
             Total In:
                                                                  1,027 mL
                                                                     73 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    667 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    120 mL
   Urine:
                                                                    875 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    152 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   GENERAL: Elderly man, pleasant, anxious, in NAD. A&O x3. Mood, affect
   appropriate.
   HEENT: PERRL, EOMI.  Conjunctiva were pink, no pallor or cyanosis of
   the oral mucosa. No xanthalesma.
   NECK: Supple with mild JVD, very mild hepato-jugular reflux.
   CARDIAC: Distant heart sounds, RR with multiple PVCs.  Normal S1/S2. No
   m/r/g. No thrills, lifts.  No S3 or S4.
   LUNGS: Dullness to percussion on right and left to [**11-27**] distance up
   lung.  Decreased BS on right and left to same level.  No w/c/r
   ABDOMEN: Soft, NTND. Wounds from biopsies clean and intact. Scar in RUQ
   from previous nephrectomy.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No rashes.
   PULSES:  Right: DP 1+ PT 1+  , Left: DP 1+ PT 1+
   Labs / Radiology
   267 K/uL
   10.2 g/dL
   107 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   32 mg/dL
   106 mEq/L
   140 mEq/L
   29.8 %
   8.2 K/uL
        [image002.jpg] Fat pad bx/aspirate pnd/rush
                                                  UPep, IFE, B2
   microglobulin pnd; Factor X 65
   Skeletal survey:
   1. Degenerative changes of the lumbar spine and some wedge deformities
   of
   several mid thoracic vertebral bodies.
   2. No focal lytic or blastic lesions identified
   Abdominal U/S
   Overall, minimal change since [**5-6**] with pleural effusion,
   hepatic hemangioma, splenic cysts and left renal cyst. Slightly
   echogenic
   left renal cortex may indicate medical renal disease.
                             [**2129-5-24**]  03:10 PM
                             [**2129-5-25**]  04:39 AM
                             [**2129-5-25**]  01:12 PM
                             [**2129-5-26**]  04:11 AM
                             [**2129-5-26**]  07:51 PM
                             [**2129-5-27**]  05:10 AM
   WBC
   6.3
   7.0
   8.9
   8.2
   Hct
   33.1
   30.6
   32.3
   31.5
   29.8
   Plt
   [**Telephone/Fax (3) 7085**]67
   Cr
   1.9
   2.2
   2.1
   1.9
   1.8
   TropT
   0.39
   Glucose
   107
   105
   107
   107
   Other labs: PT / PTT / INR:13.4/30.3/1.1, CK / CKMB /
   Troponin-T://0.39, ALT / AST:19/20, Alk Phos / T Bili:76/0.3,
   Differential-Neuts:71.6 %, Lymph:20.9 %, Mono:4.8 %, Eos:2.3 %, LDH:208
   IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   The patient is a 66 yo man with recent dx of cardiac amyloidosis (on
   TTE, cardiac MRI, EKG) who presents with hypotension in the setting of
   Lisinopril 2.5mg X2
   .
   #. Amyloidosis:  The patient was recently diagnosed with amyloidosis on
   findings from TTE and Cardiac MRI.  Fat pad biopsy and fat pad aspirate
   were done on [**5-25**] for definitive tissue diagnosis; results were rushed,
   still pending. Bone marrow biopsy done in hopes of ensuring good tissue
   sampling. Family meeting held w/ CCU, H/O and social work to discuss
   diagnosis and plan yesterday.
   - Pt has appointment at [**Hospital1 475**] amyloid clinic for Monday, [**2129-5-30**] at 7:45am
    - f/u fat pad biopsy, aspirate and bone marrow biopsy
    - f/u UPEP, beta2-microglobulin per heme-onc
    - appreciate heme-onc recs.
   - skeletal survey and abd U/S final reads normal
   .
   #. Hypotension:  The patient's BP on admission was 74/51, and he was
   experiencing dizziness, nausea, and HA.  Initial symptomatic
   hypotension most likely due to Lisinopril.  Per the patient, his SBP
   normally runs in the 80s-90s, yesterday was able to ambulate with SBP
   in the high 70s and 80s w/ mild tachycardia (HR 90s)
    - Continue to hold Lisinopril
    - If patient remains asymptomatic, no intervention necessary.
   .
   #. Pleural Effusions:  Thoracentesis done [**2129-5-25**] with symptomatic
   improvement per patient.  All effusions have been transudates, meaning
   cause is restrictive cardiomyopathy and will most likely recur.
   However, permanent cath would be last resort per IP.
   - CXR on [**5-25**] after tap showed improvement of right effusion post-tap;
   yesterday
s CXR suggests reaccumulation of b/l effusions
   - b/c of diastolic dysfunction will need a low dose of lasix to prevent
   overload.  Will start 20mg PO Qdaily
    - Monitor dyspnea; consider re-tap if stays O/N tonight
   .
   #. Acute Renal Failure:  The patient's Cr now 1.8, which is increased
   from his baseline of 1.2 in 5/0; Cr had increased to 2.2 this admission
   but now appears to be trending down.  Ddx is pre-renal due to
   hypotension, amyloid renal disease and post-renal due to BPH.  FE Urea
   of 16 suggestive of pre-renal.
    - Continue to bolus with 250cc NS as needed.
    - Continue to monitor Cr and UOP
   ICU Care
   Nutrition: Regular, cardiac diet
   Glycemic Control:
   Lines: Peripheral IV
   20 Gauge - [**2129-5-24**] 02:40 PM
   Prophylaxis:
   DVT: SQ heparin TID
   Stress ulcer: None needed
   Pain: Tylenol PRN, Morphine IV x3
   Bowel: Colace, Senna (held yesterday)
   VAP: none
   Comments:
   Communication:  Wife
   [**Name (NI) 129**] status: Full code (confirmed)
   Disposition: Home today to go to [**Hospital1 475**] for outpatient tx on Monday AM
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   ready for discharge
   small dose of lasix
   follow up with [**Hospital1 475**] amyloid clinic on monday
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2129-5-27**] 10:24 ------